### PR TITLE
[Merged by Bors] - feat: port Data.List.Count

### PR DESCRIPTION
**Pull request by zeramorphic**
- [x] depends on: #1380

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#1380
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#1380~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Data/List/Count.lean [hunk 1]
```diff
@@ -0,0 +1,392 @@
...
+/-! ### count -/
+
+
+section Count
+
+variable [DecidableEq α]
+
+@[simp]
+theorem count_nil (a : α) : count a [] = 0 := rfl
+#align list.count_nil List.count_nil
```
Comment (jcommelin) [inline Mathlib/Data/List/Count.lean:178]: Linter claims that `simp` can prove this. But it's a good `dsimp`-lemma. Also, simp can only prove it using https://github.com/leanprover-community/mathlib4/pull/1410/files#diff-cdbce63b7556c5dc37babb0180e51282c7467545742bb9be6bc251f1db148b97R256 below.
Should we bump priority here?

File: Mathlib/Data/List/Count.lean [hunk 2]
```diff
@@ -204,73 +236,85 @@ theorem count_append (a : α) : ∀ l₁ l₂, count a (l₁ ++ l₂) = count a
...
+    simpa using h b hb
+  · rw [h b hb, beq_self_eq_true]
 #align list.count_eq_length List.count_eq_length
 
 @[simp]
-theorem count_repeat (a : α) (n : ℕ) : count a (repeat a n) = n := by
-  rw [count, countp_eq_length_filter, filter_eq_self.2, length_repeat] <;>
-    exact fun b m => (eq_of_mem_repeat m).symm
-#align list.count_repeat List.count_repeat
+theorem count_replicate (a : α) (n : ℕ) : count a (replicate n a) = n := by
```
Comment (jcommelin) [inline Mathlib/Data/List/Count.lean:280]: For all lemmas about `repeat`, please keep the `repeat` version, but also add the `replicate` version. And mark the `repeat` version as deprecated. Since the order of arguments is changing it's good to keep both around, to make porting of future files smoother.

File: Mathlib/Data/List/Count.lean [hunk 3]
```diff
@@ -204,73 +236,85 @@ theorem count_append (a : α) : ∀ l₁ l₂, count a (l₁ ++ l₂) = count a
...
+
+-- Porting note: the next two theorems seem quite useful.
+theorem _root_.beq_eq_decide_eq (a b : α) : (a == b) = decide (a = b) := rfl
+
+theorem _root_.beq_comm {a b : α} : (a == b) = (b == a) := by
+  rw [beq_eq_decide_eq, beq_eq_decide_eq, Bool.decide_eq, eq_comm]
 
-theorem le_count_iff_repeat_sublist {a : α} {l : List α} {n : ℕ} :
-    n ≤ count a l ↔ repeat a n <+ l :=
+theorem le_count_iff_repeat_sublist : n ≤ count a l ↔ replicate n a <+ l :=
```
Comment (jcommelin) [inline Mathlib/Data/List/Count.lean:292]: name mentions `repeat`, statement mentions `replicate`.

File: Mathlib/Data/List/Count.lean [hunk 4]
```diff
@@ -280,23 +324,35 @@ theorem count_bind {α β} [DecidableEq β] (l : List α) (f : α → List β) (
 @[simp]
 theorem count_map_of_injective {α β} [DecidableEq α] [DecidableEq β] (l : List α) (f : α → β)
     (hf : Function.Injective f) (x : α) : count (f x) (map f l) = count x l := by
-  simp only [count, countp_map, (· ∘ ·), hf.eq_iff]
+  rw [count, count]
```
Comment (jcommelin) [inline Mathlib/Data/List/Count.lean:327]: Please add a porting note mentioning the old 1-line proof.

File: Mathlib/Data/List/Count.lean [hunk 5]
```diff
@@ -280,23 +324,35 @@ theorem count_bind {α β} [DecidableEq β] (l : List α) (f : α → List β) (
...
+  exact hf.eq_iff
 #align list.count_map_of_injective List.count_map_of_injective
 
 theorem count_le_count_map [DecidableEq β] (l : List α) (f : α → β) (x : α) :
-    count x l ≤ count (f x) (map f l) :=
-  by
-  rw [count, count, countp_map]
-  exact countp_mono_left fun y hyl => congr_arg f
+    count x l ≤ count (f x) (map f l) := by
+  rw [count, count]
```
Comment (jcommelin) [inline Mathlib/Data/List/Count.lean:339]: Please add a porting note mentioning the old 2-line proof.

File: Mathlib/Data/List/Count.lean [hunk 6]
```diff
@@ -204,73 +236,98 @@ theorem count_append (a : α) : ∀ l₁ l₂, count a (l₁ ++ l₂) = count a
...
+section deprecated
+
+set_option linter.deprecated false
+
+--Porting note: removed `simp`, `simp` can prove it using corresponding lemma about replicate
+theorem count_repeat (a : α) (n : ℕ) : count a (List.repeat a n) = n :=
+  count_replicate _ _
 #align list.count_repeat List.count_repeat
 
 theorem le_count_iff_repeat_sublist {a : α} {l : List α} {n : ℕ} :
```
Comment (jcommelin) [inline Mathlib/Data/List/Count.lean:310]:
```suggestion
@[deprecated le_count_iff_replicate_sublist]
theorem le_count_iff_repeat_sublist {a : α} {l : List α} {n : ℕ} :
```

File: Mathlib/Data/List/Count.lean [hunk 7]
```diff
@@ -13,54 +13,77 @@ import Mathlib.Data.List.BigOperators.Basic
...
+variable (p q : α → Bool)
 
 @[simp]
-theorem countp_nil : countp p [] = 0 :=
-  rfl
+theorem countp_nil : countp p [] = 0 := rfl
 #align list.countp_nil List.countp_nil
 
+-- Porting note: added to aid in the following proof.
+-- What name should this be given, and where should it go?
```
Comment (jcommelin) [inline Mathlib/Data/List/Count.lean:37]:
```suggestion
```

File: Mathlib/Data/Bool/Basic.lean [hunk 8]
```diff
@@ -82,6 +82,18 @@ theorem decide_eq {p q : Prop} [Decidable p] [Decidable q] : decide p = decide q
 theorem not_false' : ¬false := fun.
 #align bool.not_ff Bool.not_false'
 
+-- Porting note: new theorem
+theorem eq_iff_eq_true_iff {a b : Bool} : a = b ↔ ((a = true) ↔ (b = true)) :=
```
Comment (jcommelin) [inline Mathlib/Data/Bool/Basic.lean:86]: Should the two sides of the iff be flipped?

Comment (ChrisHughes24) [reply Mathlib/Data/Bool/Basic.lean:86]: No, I think that the simp normal form for anything involving `Bool` should be to handle them like Props.

**Comment by jcommelin** [comment]
bors merge
